US07456218B2
3-[4-({4′-[2-ethoxy-1-(ethoxymethyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoic acid
To a mixed solution of ethyl 3-[4-({4′-[2-ethoxy-1-(ethoxymethyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate (0.665 g, 1.20 mmol) in ethanol (6 mL) and tetrahydrofuran (6 mL) was added 2 M aqueous sodium hydroxide solution (2 mL) and the mixture was stirred at room temperature for 72 hrs. Water was added to the reaction mixture and the mixture was neutralized with 10% aqueous citric acid solution and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-80% ethyl acetate/hexane) to give the title compound (0.588 g, yield 93%) as a colorless viscous oil.

reactant | ethyl 3-[4-({4′-[2-ethoxy-1-(ethoxymethyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoate | 1.20 mmol, 0.665 g | C(C)OCC(OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F)C)COCC | C33H41FO6
reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-[4-({4′-[2-ethoxy-1-(ethoxymethyl)ethoxy]-2′,6′-dimethylbiphenyl-3-yl}methoxy)-2-fluorophenyl]propanoic acid | 0.588 g, yield 93% | C(C)OCC(OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC(=C(C=C1)CCC(=O)O)F)C)COCC | C31H37FO6
